US07648979B2
d) 5-(4-tert-Butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester
To a solution of 1H-indole-2,5-dicarboxylic acid 2-ethyl ester (3.08 g, 13 mmol) and tert-butyl 1-homopiperazine-carboxylate (1 eq., 2.657 g) in DMF (50 ml) was added N-hydroxybenzotriazole (0.2 eq., 360 mg). After a five minutes, N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride (1.2 eq., 3.05 g) was added and the mixture stirred at room temperature overnight. The solvent was removed under reduced pressure and the crude product was purified by column chromatography on silica gel (3:1 heptane/ethyl acetate eluant) to afford the product as a light-brown solid (5.21 g, 94%). MS (m/z): 416.4 (M+H)+.

reactant | 1H-indole-2,5-dicarboxylic acid 2-ethyl ester | 13 mmol, 3.08 g | CCOC(=O)C=1NC2=CC=C(C=C2C1)C(=O)O | C12H11NO4
reactant | tert-butyl 1-homopiperazine-carboxylate | 2.657 g, 1 eq. | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | N-hydroxybenzotriazole | 360 mg, 0.2 eq. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 3.05 g, 1.2 eq. | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-(4-tert-Butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester | 5.21 g, 94% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CCN(CCC1)C(=O)OC(C)(C)C | C22H29N3O5
